Name:  ___                        Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Aspirin
 
Attending: ___.
 
Chief Complaint:
Chest Pain, Altered Mental Status 

 
Major Surgical or Invasive Procedure:
esphogastroduodenoscopy (EGD)

 
History of Present Illness:
HISTORY OF PRESENT ILLNESS:  ___ is a ___ with a history of 
HTN, HLD, carotid stenosis, cervical/lumbar spinal stenosis, and 
memory deficit at baseline who presents due to chest pain, 
altered mental status, and generalized weakness. The majority of 
this history comes from the daughter, as Ms. ___ has memory 
deficits and communicates mainly by gestures. 

She was discharged from the ___ on ___ with 3 days of 
progressive neurologic changes initially concerning for acute 
stroke or delirium. CT scan showed an old lacunar stroke. She 
was hyponatremic to 127, which improved without any specific 
intervention. She was also found to be hypertensive, and her 
home atenolol 25 mg QD was changed to atenolol 25 mg BID. 

Ms. ___ daughter reports that Ms. ___ strength and mental 
status improved after hospital discharge, and she was doing 
relatively well. However over the past few days, she noticed 
that her strength diminished again. She was so weak that she 
required assistance from both of her daughters. She sometimes 
also slumps to one side or the other.

Last night, Ms. ___ awoke around 2:00am screaming for her 
daughters. She was rubbing her chest, similar to the discomfort 
she normally expresses when she has acid reflux. She then fell 
asleep, and her daughters had great difficulty awaking her. She 
would wake up to gentle shaking, but not to voice. There were no 
abnormal movements. She was still breathing. This episode lasted 
for 15 minutes. Her daughters were concerned about her mental 
status, and called the ambulance.  

Of note, Ms. ___ has had memory problems for the past year, and 
is completely dependent on her daughters. She stopped speaking 
as of ___, and has not eaten well for the past two months. A 
typical diet entails oatmeal, rice, vegetables and some meats. 
Most of the time, her daughters have to spoon-fed her, and she 
often refuses meals even then. She occasionally takes in Boost 
protein shakes. 
 
In the ED, initial vitals were: 98.4 60 186/73 16 97% RA. 
Patient was AOx3, lungs CTAB, abdomen non-tender. Labs were 
significant for Na 120, Cl 87. CBC and remainder of Chem7 
unremarkable.  UA was unremarkable. ULytes showed Cr 30, Na 40, 
serum Osm 242. EKG recorded as NSR, PR 222, LAD, No ST 
elevations, CWP. Trop < 0.01. Patient was started on NS @ 
150cc/hr for total 1000cc.  

Vitals prior to transfer were: 97.6 80 133/98 20 98%.  
 
On the floor, patient was awake, pleasant and responding to 
commands with gestures.  
 
Review of Systems:  
(+) per HPI  

General: No fevers or chills.
HEENT: Hard of hearing. Her hearing aid is broken. No headaches, 
vision problems, throat pain or excessive thist.
Cardiac/Pulmonary: No shortness of breath. 
GI: Endorses constipation that improves with Miralax, metamucil 
or suppositories. No nausea/vomiting, abdominal pain or 
diarrhea. 
GU: Chronically incontinent of urine. Urine has been 
foul-smelling lately. 
MSK: Has chronic shoulder pain and back pain due to the cervical 
and lumbar stenosis. Often turns onto her side and curls into a 
ball if she is in pain. Pain is responsive to Tylenol.
Neuro: As stated above. No numbness or tingling. 

 
Past Medical History:
PAST MEDICAL HISTORY:  
HTN  
HLD  
Carotid Stenosis  
GERD  
Duodenal Ulcer  
Exertional Dyspnea with negative ETT ___  
Seborrheic Keratosis  
Atopic Dermatitis  
Spinal Stenosis  
OA with multilevel DJD  
Sciatica  

 
Social History:
___
Family History:
Non-contributory

 
Physical Exam:
PHYSICAL EXAM:  
Vitals -  T98.4. BP 189/68. HR 66. RR 20. 98% RA. 
GENERAL: Alert, oriented to self. In no acute distress.   
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM, good dentition  
NECK: nontender supple neck, no LAD, no JVD  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
PULSES: 2+ DP pulses bilaterally  
NEURO: Able to count to 10 forwards and backwards. Able to 
repeat 3 words, but cannot recall after 5 minutes. Able to draw 
a circle, but cannot draw a clock with numbers and hour/minute 
hands. EOMI, face symmetric. Hearing impaired. Strong finger 
grip and ankle plantarflexion. 
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes 

PHYSICAL EXAM:  
Vitals -  T97.7. BP 158/63. HR 59. RR 18. 98% RA. 
GENERAL: Alert oriented to self, acknowledges examiner, In no 
acute distress.   
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM  
NECK: nontender supple neck, no LAD, no JVD  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, EXTREMITIES: no cyanosis, clubbing or edema, 
moving all 4 extremities with purpose  
PULSES: 2+ DP pulses bilaterally  
NEURO: EOMI, face symmetric. Hearing impaired. Strong finger 
grip and ankle plantarflexion. 
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes  

 
Pertinent Results:
ADMISSION LABS:
___ 03:29AM   GLUCOSE-110* UREA N-14 CREAT-0.7 SODIUM-120* 
POTASSIUM-4.3 ___ 10:30AM   CK-MB-3 cTropnT-<0.01
___ 05:13AM URINE  HOURS-RANDOM CREAT-30 SODIUM-40 
POTASSIUM-23 CHLORIDE-37
___ 05:13AM URINE  OSMOLAL-242CHLORIDE-87* TOTAL CO2-24 
ANION GAP-13

___ 05:13AM URINE Blood-NEG Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG

IMAGING:
CXR ___:
IMPRESSION:  
  
COPD.  Moderate cardiomegaly .Bibasilar atelectasis.  No CHF or 
focal 
consolidation identified. 

TTE ___:
IMPRESSION: Symmetric LVH with vigorous global biventricular 
systolic function. Mild pulmonary hypertension. Normal size of 
visualized ascending aorta. Transthoracic echocardiography 
cannot exclude aortic dissection.  

Barium swallow ___:
IMPRESSION:  
  
Prolonged retention of barium tablet within the mid/lower 
esophagus several cm above gastroesophageal junction and delayed 
passage of barium without visible fixed stricture suggest this 
is related to spasm in this patient who also showed prominent 
nonpropulsive tertiary contractions. 

EGD ___:
Impression: Normal mucosa in the esophagus (biopsy)
Normal mucosa in the duodenum
Diverticulum in the first part of the duodenum
The lower sphinecter does not open easily with insufflation. 
However, the scope can pass. There is no evidence of stricture 
or mass.
Erythema in the antrum compatible with mild gastritis (biopsy)
Otherwise normal EGD to third part of the duodenum 

DISCHARGE LABS:
___ 07:54AM BLOOD Glucose-116* UreaN-16 Creat-0.7 Na-131* 
K-4.3 Cl-92* HCO3-27 AnGap-___ ___ F PMHx HTN, HLD, carotid stenosis, GERD 
with reported hx bleeding abdominal ulcer, recent admission for 
hyponatremia and weakness, presents for chest pain, admitted for 
hyponatremia.  
 
#Hyponatremia: Had recent admission here for hyponatremia, 
although lowest Na during that admission 127. During that 
admission, Na improved without intervention with good PO intake. 
Now admitted for sodium of 120. She was started on NS 
@150cc/hour in the ED. On presentation, patient was hypovolemic 
to euvolemic on physical exam, with known decreased PO intake. 
She also has chronic pain. Serum osm of 252 confirms a hypotonic 
hyponatremia. Urine Na 40, FeNa 0.8%, urine osm 242. Ddx broad 
but includes mineralocorticoid deficiency, renal tubular 
acidosis or poor PO intake ("tea and toast") if truly 
hypovolemic, and SIADH, hypothyroidism and glucocorticoid 
deficiency if truly euvolemic. Na increased to 125 after fluids. 
TSH was found to be normal at 0.82. Patient was placed on 1200 
cc/day fluid restriction and sodium corrected to 130 by the end 
of hospitalization. Ms. ___ was sent home with ___ services for 
weekly sodium monitoring. 
    
# Lethargy/Weakness: Patient reportedly less responsive this 
morning but alert and responsive upon evaluation. No focal 
neurological deficits to suggest evolving stroke. Likely 
secondary to hyponatremia and suboptimal PO intake. As sodium 
and PO intake improved, patient was noted by family to return to 
her baseline level of mentation.
 
# Chest pain: Patient without known CAD and with a history of 
substernal chest pain ___ GERD. GERD is likely etiology. In an 
elderly woman with poorly-controlled HTN and evidence of LVH on 
EKG and cardiomegaly on CXR, cardiac etiology was a concern but 
ruled out with normal EKG, negative serial troponins, and ECHO 
demonstrating symmetric LVH, EF of 70%. Home omeprazole was 
continued without resolution of pain. GI was consulted. Barium 
swallow showed evidence of esophageal dysmotility. EGD was 
negative for stricture or obstruction and a deep esophageal 
biopsy was taken. There is no plan for manometry as patient may 
not tolerate the procedure, though GI suspects she may have 
early achalasia and recommends soft dysphagia diet for treament 
of pain. If pain or symptoms progress, patient may consider 
botox injections down the road. 

# HTN: BP 180s on admission, although usually 130-150s at home. 
Patient is asymptomatic. We continued her home atenolol 25 mg 
BID throughout the hospitalization and held her home lisinopril 
due to hyponatremia. She had occasional SBPs in the 170s-190s, 
though remained asymptomatic. By discharge, her SBPs were in the 
140s-160s for over 24 hours.  

# Chronic shoulder/back pain: Secondary to cervical and lumbar 
stenosis. Patient not on chronic pain medications at home, 
although pain responsive to Tylenol. Her pain was managed with 
Tylenol ___ mg TID thoughout her hospital stay. 

# GERD: She remained on home dose omeprazole without resolution 
of her chest pain. 
 
# Dementia: Reported by daughter to have memory issues in past 
___ years, not on any medications 

# Constipation: A chronic problem. Improves with Miralax, 
metamucil and suppositories. Per patient's daughter, ___ 
has improved with hospital bowel regimen, meeting or exceeding 
goal of 1 bowel movement per day. She was sent home with a 
prescription for miralax and docusate sodium.

#Nutrition: Patient's sodium levels are thought to be due to 
SIADH and a "tea and toast" poor PO intake also due to dysphagia 
and chest pain now thought to be due to esophageal dysfunction. 
Patient was transitioned to soft dysphagia diet and was 
prescribed ensure TID to supplement nutritional needs. 

Transitional issues:
[ ] weekly BMP and blood pressure monitoring by ___
[ ] follow-up esophageal biopsy from ___ EGD
[ ] monitor BP consider holding lisinopril if BP decreases
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Bisacodyl ___AILY:PRN constipation 
2. Omeprazole 40 mg PO BID 
3. Vitamin D 1000 UNIT PO DAILY 
4. Fish Oil (Omega 3) 1000 mg PO BID 
5. Atenolol 25 mg PO DAILY 
6. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
7. Psyllium 1 PKT PO DAILY:PRN constipation 

 
Discharge Medications:
1. Acetaminophen 1000 mg PO TID pain 
RX *acetaminophen 500 mg/5 mL 10 mL by mouth every 8 hours 
Refills:*1
2. Bisacodyl ___AILY:PRN constipation 
3. Fish Oil (Omega 3) 1000 mg PO BID 
4. Omeprazole 20 mg PO BID 
5. Docusate Sodium 100 mg PO DAILY:PRN constipation 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*60 Capsule Refills:*1
6. Psyllium 1 PKT PO DAILY:PRN constipation 
7. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
This is Miralax 
RX *polyethylene glycol 3350 [Miralax] 17 gram 1 powder(s) by 
mouth daily Disp #*30 Packet Refills:*1
8. Atenolol 25 mg PO BID 
9. Vitamin D 1000 UNIT PO DAILY 
10. ensure
Please drink one ensure can three time a day with each meal. 
11. Lisinopril 5 mg PO DAILY 
RX *lisinopril 5 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
esophageal dysfunction
hyponatremia

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Followup Instructions:
___